US07199239B2
Intermediate 2: Ethyl 2-methyl-2-{2-methyl-4-[([4-(trifluoromethyl)benzyl]{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]phenoxy}propanoate
A mixture of ethyl 2-methyl-2-[2-methyl-4-({[4-(trifluoromethyl)benzyl]amino}methyl)phenoxy]propanoate (0.13 g, 0.318 mmol ), 2-bromo-6-[4-(trifluoromethyl) phenyl]pyridine (78.5 mg, 0.26 mmol), palladium (II) acetate (4.8 mg, 0.021 mmol), (R)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (19.8 mg, 0.032 mmol) and caesium carbonate (0.13 g, 0.397 mmol) in toluene (1.8 mL) were heated at 70° C. in a reactivial for 18 hours. After cooling to room temperature, the reaction mixture was filtered and the solvent removed in vacuo. Purification by SPE (Silica, 10 g) eluting with 99:1–19:1 cyclohexane:EtOAc afforded the title compound as a colourless oil (75 mg).

reactant | ethyl 2-methyl-2-[2-methyl-4-({[4-(trifluoromethyl)benzyl]amino}methyl)phenoxy]propanoate | 0.318 mmol, 0.13 g | CC(C(=O)OCC)(C)OC1=C(C=C(C=C1)CNCC1=CC=C(C=C1)C(F)(F)F)C | C22H26F3NO3
reactant | 2-bromo-6-[4-(trifluoromethyl) phenyl]pyridine | 0.26 mmol, 78.5 mg | BrC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C12H7BrF3N
reactant | (R)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 0.032 mmol, 19.8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | caesium carbonate | 0.397 mmol, 0.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1.8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.021 mmol, 4.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 2-methyl-2-{2-methyl-4-[([4-(trifluoromethyl)benzyl]{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]phenoxy}propanoate | 75 mg | CC(C(=O)OCC)(C)OC1=C(C=C(C=C1)CN(C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C(F)(F)F)C | C34H32F6N2O3
